US09340506B2
2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-propionic acid ethyl ester
To a solution of lithium diisopropylamide (prepared in situ) (4.24 g, 39.6 mmol) in dry THF (40 mL) was added the solution of {2-[tert-butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-acetic acid ethyl ester (8.0 g, 19.68 mmol) in 20 mL of dry THF in a dropwise fashion at −78° C. The reaction mixture was continued to stir at −78° C. for 1 hour followed by the addition of methyl iodide (4.19 g, 29.52 mmol) at the same temperature. The reaction mixture was kept on stirring and slowly allowed to come to room temperature. The reaction mixture was quenched with saturated ammonium chloride solution and diluted with ethyl acetate. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with brine and dried over anhydrous sodium sulphate and the solvent was removed in vacuo to get the sticky compound (8.2 g). The compound was used for the next reaction without any purification.

reactant | lithium diisopropylamide | 39.6 mmol, 4.24 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | {2-[tert-butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-acetic acid ethyl ester | 19.68 mmol, 8.0 g | C(C)OC(CC=1N=C(SC1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C20H26N2O5S
reactant | methyl iodide | 29.52 mmol, 4.19 g | CI | CH3I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-propionic acid ethyl ester | 8.2 g | C(C)OC(C(C)C=1N=C(SC1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C21H28N2O5S
